US04705554
1-[4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl]-3-ethoxy-3-methylurea
1.8 g of 4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl isocyanate was dissolved in 20 ml of toluene, and 2.0 g of N-methyl-O-ethylhydroxylamine dissolved in 5 ml of toluene, was dropwise added thereto over a period of 20 minutes at room temperature. The mixture was stirred at room temperature for 2 hours, and then the solvent was distilled off. The residue was purified by silica gel column chromatography by using a solvent mixture of ethyl acetate/n-hexane=1/4 as the developer, to obtain 2.2 g of compound No. 29 as identified in Table 1.

reactant | 4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl isocyanate | 1.8 g | CC1(OC2=C(C1)C=C(C=C2)OC2=CC=C(C=C2)N=C=O)C | C17H15NO3
reactant | N-methyl-O-ethylhydroxylamine | 2.0 g | CNOCC | C3H9NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2,3-dihydro-2,2-dimethyl-5-benzofuranyloxy)phenyl]-3-ethoxy-3-methylurea | 2.2 g | CC1(OC2=C(C1)C=C(C=C2)OC2=CC=C(C=C2)NC(=O)N(C)OCC)C | C20H24N2O4
